### PR TITLE
fix: incremental goal state requests select incomplete snapshot

### LINKED ISSUE #6594: No goals after finishing subgoal
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following code snippet shows `No Goals` on the empty line, at any indentation level.

```lean
example : True ∧ True := by
  constructor
  · trivial

--^ the tactic state shows "No goals" anywhere on this line and the previous line
  trivial
```

It should show the same goal state as the following examples
```lean
example : True ∧ True := by
  constructor
  · trivial

--^ correct goal state

example : True ∧ True := by
  constructor
  · trivial
  trivial
--^ correct goal state

```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by mhuisi**
This PR fixes a bug where the goal state selection would sometimes select incomplete incremental snapshots on whitespace, leading to an incorrect "no goals" response. Fixes #6594, a regression that was originally introduced in 4.11.0 by #4727. 

The fundamental cause of #6594 was that the snapshot selection would always select the first snapshot with a range that contains the cursor position. For tactics, whitespace had to be included in this range. However, in the test case of #6594, this meant that the snapshot selection would also sometimes pick a snapshot before the cursor that still contains the cursor in its whitespace, but which also does not necessarily contain all the information needed to produce a correct goal state. Specifically, at the `InfoTree`-level, when the cursor is in whitespace, we distinguish competing goal states by their level of indentation. The snapshot selection did not have access to this information, so it necessarily had to do the wrong thing in some cases.

This PR fixes the issue by adjusting the snapshot selection for goals to explicitly account for whitespace and indentation, and refactoring the language processor architecture to thread enough information through to the snapshot selection so that it can decide which snapshots to use without having to force too many tasks, which would destroy incrementality in goal state requests.

Specifically, this PR makes the following adjustments:
- Refactor `SnapshotTask` to contain both a `Syntax` and a `Range`. Before, `SnapshotTask`s had a single range that was used both for displaying file progress information and for selecting snapshots in server requests. For most snapshots, this range did not include whitespace, though for tactics it did. Now, the `reportingRange` field of `SnapshotTask` is intended exclusively for reporting file progress information, and the `Syntax` is used for selecting snapshots in server requests. Importantly, the `Syntax` contains the full range information of the snapshot, i.e. its regular range and its range including whitespace.
- Adjust all call-sites of `SnapshotTask` to produce a reasonable `Syntax`.
- Adjust the goal snapshot selection to account for whitespace and indentation, as the `InfoTree` goal selection does.
- Fix a bug in the snapshot tree tracing that would cause it to render the `Info` of a snapshot at the wrong location when `trace.Elab.info` was also set.

This PR is based on #6329.

### CODE REVIEW

File: src/Lean/Server/Requests.lean [hunk 1]
```diff
@@ -171,80 +237,70 @@ def withWaitFindSnapAtPos
...
-    else
-      match cmdParsed.nextCmdSnap? with
-      | some next => next.task.bind (sync := true) go
-      | none => .pure none
+  go (cmdParsed : CommandParsedSnapshot) : Task (Option CommandParsedSnapshot) := Id.run do
+    if containsHoverPos cmdParsed then
+      return .pure (some cmdParsed)
+    match cmdParsed.nextCmdSnap? with
+    | some next => next.task.bind (sync := true) go
+    | none => .pure none
```
Comment (Kha) [inline src/Lean/Server/Requests.lean:255]: We can return early if `hoverPos` is before `cmdParsed`

File: src/Lean/Server/Requests.lean [hunk 2]
```diff
@@ -171,80 +237,70 @@ def withWaitFindSnapAtPos
     (x := f)
 
 open Language.Lean in
-/-- Finds the first `CommandParsedSnapshot` fulfilling `p`, asynchronously. -/
-partial def findCmdParsedSnap (doc : EditableDocument) (p : CommandParsedSnapshot → Bool) :
-    Task (Option CommandParsedSnapshot) := Id.run do
+/-- Finds the first `CommandParsedSnapshot` containing `hoverPos`, asynchronously. -/
+partial def findCmdParsedSnap (doc : EditableDocument) (hoverPos : String.Pos)
+    (config : Language.SnapSelectionConfig) : Task (Option CommandParsedSnapshot) := Id.run do
```
Comment (Kha) [inline src/Lean/Server/Requests.lean:242]: What is an example where we do *not* want to include stop/trailing in `findCmdParsedSnap`? Isn't this only relevant when we get to nesting, i.e. in the info tree?

File: src/Lean/Elab/Tactic/Induction.lean [hunk 3]
```diff
@@ -285,9 +285,13 @@ where
               stx := mkNullNode altStxs
               diagnostics := .empty
               inner? := none
-              finished := { range? := none, task := finished.result }
+              finished := {
+                stx? := mkNullNode altStxs
+                reportingRange? := none
```
[the remark this answers is not in the document]
Comment (mhuisi) [reply src/Lean/Elab/Tactic/Induction.lean:290]: (We discussed this and came to the conclusion that it's not a special case)

File: src/Lean/Server/Requests.lean (hunk 1 above)
Comment (mhuisi) [reply src/Lean/Server/Requests.lean:257]: Good catch!

File: src/Lean/Server/Requests.lean (hunk 2 above)
Comment (mhuisi) [reply src/Lean/Server/Requests.lean]: I've adjusted the command snapshot selection logic so that it doesn't need a config.

**Review by Kha — APPROVED** [review]
